US05298520
1. 1-(4-Nitrophenyl)-2-methylimidazole
Sodium hydride (4.87 g, 122.0 mmol, 60% dispersion in oil) was added to a solution of 2-methylimidazole (10 g, 122.0 mmol) in DMF (100 ml) and stirred at room temperature for 0.25 h. 1-Fluoro-4-nitrobenzene (17.18 g, 122.0 mmol) was added to the reaction mixture and stirred at room temperature for 16 h. Water (150 ml) and ethyl acetate (250 ml) were added, the aqueous separated and extracted with ethyl acetate (3×150 ml). The combined extracts were washed with water (3×150 ml), dried (Na2SO4) and evaporated to give the desired product (11.5 g, 47%); δ (360 MHz, CDCl3) 2.24 (3H, s, Me); 7.06 (1H, d, J=1.5 Hz, Ar-H); 7.10 (1H, d, J=1.5 Hz, Ar-H); 7.50 (2H, d, J=9.5 Hz, Ar-H); 8.38 (2H, d, J=9.5 Hz, Ar-H).

reactant | Sodium hydride | 122.0 mmol, 4.87 g | [H-].[Na+]
reactant | 2-methylimidazole | 122.0 mmol, 10 g | CC=1NC=CN1 | C4H6N2
reactant | 1-Fluoro-4-nitrobenzene | 122.0 mmol, 17.18 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | Water | 150 ml | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
product | 1-(4-Nitrophenyl)-2-methylimidazole | 11.5 g, 47% | [N+](=O)([O-])C1=CC=C(C=C1)N1C(=NC=C1)C | C10H9N3O2
